US08138347B2
e) 2-amino-N,N-dimethyl-5-[8-methyl-4-(4-pyridinyl)-6-quinolinyl]-3-pyridinesulfonamide
A mixture of 6-bromo-4-chloro-8-methylquinoline (0.300 g, 1.170 mmol), bis(pinacolato)diboron (0.297 g, 1.170 mmol), dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium (II) dichloromethane adduct (0.029 g, 0.035 mmol), and solid anhydrous potassium acetate (0.459 g, 4.676 mmol) in dry 1,4-dioxane (8 mL) was heated at reflux for 70 minutes. The oil bath was temporarily removed and to the reaction was added 2-amino-5-bromo-N,N-dimethyl-3-pyridinesulfonamide (0.327 g, 1.17 mmol), dichloro [1,1′-bis(diphenylphosphino)ferrocene]palladium (II) dichloromethane adduct (0.047 g, 0.058 mmol), and 2 M aqueous potassium carbonate (0.646 g, 4.676 mmol, 2.34 mL). The reaction was heated at reflux for 80 minutes. The oil bath was temporarily removed and to the reaction was added 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (0.240 g, 1.17 mmol), dichloro [1,1′-bis(diphenylphosphino)ferrocene]palladium (II) dichloromethane adduct (0.047 g, 0.058 mmol), 2 M aqueous potassium carbonate (0.485 g, 3.51 mmol, 1.76 mL), and 1,4-dioxane (6 mL). The reaction was heated at reflux for 17 h and concentrated in vacuo. The residue was triturated with 10% MeOH:EtOAc (45 mL), filtered through filter paper, and the filtrate was concentrated in vacuo. The residue was purified by flash chromatography on silica gel (7% MeOH:EtOAc) to give the title compound (0.135 g, 28%) as a yellow powder. MS(ES)+ m/e 420 [M+H].

reactant | 6-bromo-4-chloro-8-methylquinoline | 1.170 mmol, 0.300 g | BrC=1C=C2C(=CC=NC2=C(C1)C)Cl | C10H7BrClN
reactant | bis(pinacolato)diboron | 1.170 mmol, 0.297 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 4.676 mmol, 0.459 g | C(C)(=O)[O-].[K+]
reactant | 2-amino-5-bromo-N,N-dimethyl-3-pyridinesulfonamide | 1.17 mmol, 0.327 g | NC1=NC=C(C=C1S(=O)(=O)N(C)C)Br | C7H10BrN3O2S
reactant | potassium carbonate | 4.676 mmol, 2 M, 2.34 mL, 0.646 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 1.17 mmol, 0.240 g | CC1(OB(OC1(C)C)C1=CC=NC=C1)C | C11H16BNO2
reactant | potassium carbonate | 3.51 mmol, 2 M, 1.76 mL, 0.485 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 8 mL | O1CCOCC1 | C4H8O2
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 0.035 mmol, 0.029 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | dichloro [1,1′-bis(diphenylphosphino)ferrocene]palladium (II) dichloromethane adduct | 0.058 mmol, 0.047 g | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
catalyst | dichloro [1,1′-bis(diphenylphosphino)ferrocene]palladium (II) dichloromethane adduct | 0.058 mmol, 0.047 g | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
solvent | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | 2-amino-N,N-dimethyl-5-[8-methyl-4-(4-pyridinyl)-6-quinolinyl]-3-pyridinesulfonamide | 0.135 g, 28% | NC1=NC=C(C=C1S(=O)(=O)N(C)C)C=1C=C2C(=CC=NC2=C(C1)C)C1=CC=NC=C1 | C22H21N5O2S
